US07018988B2
(2S,4EZ)-4-[(benzyloxy)imino]-N-(9-ethyl-9H-carbazol-3-yl)-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 65% purity by LC/MS. MS(ESI+): m/z=561.4.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-[(benzyloxy)imino]-N-(9-ethyl-9H-carbazol-3-yl)-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(COC1=CC=CC=C1)=O)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C34H32N4O4
